US04552866
(D) (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-L-alanyl-L-proline, t-butyl ester, hydrochloride
(3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester (550 mg, 0.86 mmol) was dissolved in methanol (35 ml) and hydrochloric acid (1N, 0.86 ml). Palladium on carbon catalyst (10%, 200 mg) was added and the solution was stirred under an atmosphere of hydrogen overnight, filtered through Hyflo and evaporated yielding 450 mg of the title compound.

reactant | (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester | 0.86 mmol, 550 mg | C(C)(C)(C)OC(=O)N[C@H](C(CN([C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C35H49N3O8
reactant | hydrochloric acid | 1N, 0.86 ml | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
catalyst | Palladium on carbon | 200 mg | [Pd] | Pd
product | N-[3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-L-alanyl-L-proline, t-butyl ester, hydrochloride | 450 mg | Cl.C(C)(C)(C)OC(=O)NC(C(CN[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)O)CC1=CC=CC=C1 | InChI=1S/C27H43N3O6.ClH/c1-18(23(32)30-15-11-14-21(30)24(33)35-26(2,3)4)28-17-22(31)20(16-19-12-9-8-10-13-19)29-25(34)36-27(5,6)7;/h8-10,12-13,18,20-22,28,31H,11,14-17H2,1-7H3,(H,29,34);1H/t18-,20?,21-,22?;/m0./s1
